US20010056195A1
Preparation of 2,15-hexadecanedione from the product from example 1
0.37 g (1 mmol) of dimethyl 2,13-bisacetyl-1,14-tetradecanedioate were dissolved in 20 ml of DMSO and refluxed with 0.06 g (0.1 mmol) of sodium chloride and 0.04 g (2 mmol) of water for 3 h at 155 to 160° C. For work-up, the DMSO is firstly distilled off under reduced pressure, and the residue is distilled using a bulb tube. This gives 0.21 g of hexadecane-1,15-dione. Accordingly, the yield of 1,15-hexadecanedione is 82%, based on 1,9-decadiene.

reactant | dimethyl 2,13-bisacetyl-1,14-tetradecanedioate | 1 mmol, 0.37 g | C(C)(=O)C(C(=O)OC)CCCCCCCCCCC(C(=O)OC)C(C)=O | C20H34O6
reactant | sodium chloride | 0.1 mmol, 0.06 g | [Cl-].[Na+]
reactant | water | 2 mmol, 0.04 g | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 2,15-hexadecanedione | CC(CCCCCCCCCCCCC(C)=O)=O | C16H30O2
